US09278931B2
B) N-(4-{trans-2-[(cyclopropylmethyl)amino]cyclopropyl}phenyl)-1-methyl-1H-pyrazole-4-carboxamide hydrochloride
tert-Butyl(cyclopropylmethyl)[trans-2-(4-{[(1-methyl-1H-pyrazol-4-yl)carbonyl]amino}phenyl)cyclopropyl]carbamate (114.8 mg) was dissolved in 4N hydrochloric acid/cyclopentyl methyl ether solution (1 mL), and the mixture was stirred at room temperature for 1.5 hr. The solvent was evaporated under reduced pressure. The residue was recrystallized from methanol/diisopropyl ether to give the title compound (51.1 mg).

reactant | tert-Butyl(cyclopropylmethyl)[trans-2-(4-{[(1-methyl-1H-pyrazol-4-yl)carbonyl]amino}phenyl)cyclopropyl]carbamate | 114.8 mg | C(C)(C)(C)OC(N([C@H]1[C@@H](C1)C1=CC=C(C=C1)NC(=O)C=1C=NN(C1)C)CC1CC1)=O | C23H30N4O3
reactant | hydrochloric acid cyclopentyl methyl ether | 4N, 1 mL | Cl.COC1CCCC1
product | N-(4-{trans-2-[(cyclopropylmethyl)amino]cyclopropyl}phenyl)-1-methyl-1H-pyrazole-4-carboxamide hydrochloride | 51.1 mg | Cl.C1(CC1)CN[C@H]1[C@@H](C1)C1=CC=C(C=C1)NC(=O)C=1C=NN(C1)C | InChI=1S/C18H22N4O.ClH/c1-22-11-14(10-20-22)18(23)21-15-6-4-13(5-7-15)16-8-17(16)19-9-12-2-3-12;/h4-7,10-12,16-17,19H,2-3,8-9H2,1H3,(H,21,23);1H/t16-,17+;/m0./s1
